* E:\github\stm32f446_devel\basic.asc
V1 VAA 0 3.3
V2 N008 0 PULSE(0 1 0.00002 0.00000001 0.00000001 0.001 0.0011 2)
R1 0 N005 1000
V3 N003 N008 PULSE(0 2.3 0.00003 0.00000001 0.00000001 0.0000003 0.0000006 120)
XU2 N007 N004 VAA 0 N005 level.2 Avol=1Meg GBW=20Meg Slew=20Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N001 N003 15000
R3 N005 N004 2200
R6 N004 N002 3300
XU1 N006 N001 VAA 0 N002 level.2 Avol=1Meg GBW=20Meg Slew=20Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 N002 N001 10000
R8 N006 0 10000
R9 VAA N006 10000
R4 N007 0 2500
R5 VAA N007 4700
R10 N001 N002 22000
.tran 0 .000033 .000018
.lib UniversalOpamps2.sub
.backanno
.end
